US06423699B1
Isopropyl 7-(3-chlorophenyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-carboxylate
The title compound was prepared according to the procedure for Example 5 from isopropyl 7-bromo-3-oxo-3,4-dihydroquinoxaline-1(2H)-carboxylate (6.3 g, 20 mmol), and 3-chlorophenyl boronic acid (3.2 g, 20 mmol). Off-white crystals (3.7 g, 49%): m.p. 174-176° C. 1H-NMR (DMSO-d6) δ 1.27 (d, J=6.4 Hz, 6H), 4.30 (s, 2H), 4.94 (sep, J=6.2 Hz, 1H), 7.04 (d, J=8.3 Hz, 1H), 7.50 ( m, 4H ), 7.61 (t, J=1.9 Hz, 1H), 7.86 (s, 1H), 10.79 (s, 1H), MS (APCI) m/z 345/347 (M+H)+.

reactant | isopropyl 7-bromo-3-oxo-3,4-dihydroquinoxaline-1(2H)-carboxylate | 20 mmol, 6.3 g | BrC1=CC=C2NC(CN(C2=C1)C(=O)OC(C)C)=O | C12H13BrN2O3
reactant | 3-chlorophenyl boronic acid | 20 mmol, 3.2 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
product | Isopropyl 7-(3-chlorophenyl)-3-oxo-3,4-dihydroquinoxalin-1(2H)-carboxylate | ClC=1C=C(C=CC1)C1=CC=C2NC(CN(C2=C1)C(=O)OC(C)C)=O | C18H17ClN2O3
